US07019453B2
To freshly distilled 2,2,2-trichloroethanol (25 mL) was added 3,5-dihydroxybenzoic acid 4.50 g, 29.2 mmol) followed by concentrated sulfuric acid (1.0 mL), and mixture was stirred vigorously and heated at 90° C. for 48 h under nitrogen. The reaction mixture was cooled and evaporated to dryness under reduced pressure. The crude product was purified by flash chromatography eluting with CH2Cl2 gradually increasing to 1:10 diethyl ether/CH2Cl2, to give (2,2,2-trichloroethyl) 3,5-dihydroxybenzoate as a viscous oil (5.12 g, yield 61.4%).

reactant | 2,2,2-trichloroethanol | 25 mL | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | 3,5-dihydroxybenzoic acid | 29.2 mmol, 4.50 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
product | (2,2,2-trichloroethyl) 3,5-dihydroxybenzoate | 5.12 g, yield 61.4% | OC=1C=C(C(=O)OCC(Cl)(Cl)Cl)C=C(C1)O | C9H7Cl3O4
